US08017792B2
Oxalyl chloride (3.43 mL, 0.0400 mmol) and N,N-dimethylformamide (2 drops) were added to chloroform (60 mL) solution of 4-methoxy-2-methylbenzoic acid (5.0 g, 0.0300 mol). After the reaction mixture was stirred at room temperature for one hour, the reaction solvent was evaporated under reduced pressure. The obtained yellow oily substance was dissolved in chloroform (60 mL). Toluene (3.52 mL, 0.0330 mol) and aluminum chloride (8.02 g, 0.0601 mol) were added to this solution while cooled on ice, and the reaction mixture was stirred for three and a half hours while keeping the reaction mixture cooled ice. After 5% hydrochloric acid was added to the reaction mixture and extracted with chloroform, the organic phase was washed with 10% hydrochloric acid, water, a saturated sodium bicarbonate aqueous solution and brine, and dried with anhydrous magnesium sulfate. After the desiccant was filtered off, the residue obtained by evaporating the solvent under reduced pressure was purified by silica gel column chromatography (hexane:ethyl acetate=15:1) to obtain yellow oily (4-methoxy-2-methylphenyl) (4-methylphenyl)methanone (4.26 g, 58.9%).

reactant | 4-methoxy-2-methylbenzoic acid | 0.0300 mol, 5.0 g | COC1=CC(=C(C(=O)O)C=C1)C | C9H10O3
reactant | Toluene | 0.0330 mol, 3.52 mL | C1(=CC=CC=C1)C | C7H8
reactant | aluminum chloride | 0.0601 mol, 8.02 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | Cl | ClH
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
catalyst | Oxalyl chloride | 0.0400 mmol, 3.43 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | chloroform | 60 mL | C(Cl)(Cl)Cl | CHCl3
product | (4-methoxy-2-methylphenyl) (4-methylphenyl)methanone | 4.26 g, 58.9% | COC1=CC(=C(C=C1)C(=O)C1=CC=C(C=C1)C)C | C16H16O2
